US09260440B2
Compound 26: 8-Fluoro-2,2-dimethyl-2,3-dihydro-[1,2]diazepino[3,4,5,6-def]carbazole-1,6(5H,10H)-dione
To a solution of carbamate 8-fluoro-2,2-dimethyl-2,3,5,10-tetrahydro-[1,2]diazepino[3,4,5,6-def]carbazol-6(1H)-one (0.5 g, 1.8 mmol) in anhydrous dioxane (25 mL) was added SeO2 (0.32 g, 2.7 mmol). The mixture was refluxed for 40 h and filtered through Celite. The solid material was thoroughly washed with Et2O. The filtrate was concentrated, and the residue was chromatographed to give product (200 mg, 38%) as a solid. 1H NMR (DMSO-d6) δ 12.70 (s, 1H), 10.90 (s, 1H), 7.41 (dd, 1H, J=10.2, 1.8 Hz), 7.09 (dd, 1H, J=9.6, 1.8 Hz), 2.87 (s, 2H), 1.23 (s, 6H). MS (ESI) m/e [M+1]+ 286.

reactant | carbamate 8-fluoro-2,2-dimethyl-2,3,5,10-tetrahydro-[1,2]diazepino[3,4,5,6-def]carbazol-6(1H)-one | 1.8 mmol, 0.5 g | FC=1C=C2C=3C=4C(CC(CC4NC3C1)(C)C)=NNC2=O.C(N)(O)=O
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | 8-Fluoro-2,2-dimethyl-2,3-dihydro-[1,2]diazepino[3,4,5,6-def]carbazole-1,6(5H,10H)-dione | 200 mg, 38% | FC=1C=C2C=3C=4C(CC(C(C4NC3C1)=O)(C)C)=NNC2=O | C15H12FN3O2
